US07446222B2
6-Chloro-2-iodo-3-pyridinol
6-Chloro-3-pyridinol (2.0 g, 15.44 mmol) was stirred in water (40 ml) containing sodium carbonate (3.43 g, 32.36 mmol) and iodine (3.92 g, 15.44 mmol) was added. The mixture was stirred at room temperature for 72 hours. The pH was adjusted to pH8 with 1M hydrochloric acid solution and the mixture extracted with ethyl acetate (×2). The combined organic extracts were washed with brine and dried (MgSO4). The aqueous layer was acidified to pH5 with 1M hydrochloric acid solution and extracted with ethyl acetate, which was washed with brine, dried (MgSO4) and the combined solutions evaporated to leave the title compound as a buff solid (3.70 g).

reactant | 6-Chloro-3-pyridinol | 15.44 mmol, 2.0 g | ClC1=CC=C(C=N1)O | C5H4ClNO
reactant | sodium carbonate | 32.36 mmol, 3.43 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodine | 15.44 mmol, 3.92 g | II | I2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 6-Chloro-2-iodo-3-pyridinol | ClC1=CC=C(C(=N1)I)O | C5H3ClINO
